US04371525
4.1 parts of triethylchlorosilane and 3.0 parts of triethylamine are separately added, in portions, to 5 parts of methyl benzimidazole-2-carbamate in 50 parts of tetrahydrofuran. After 12 hours, the mixture is filtered and the solvent is distilled from the filtrate under reduced pressure. 1.6 parts of methyl N-triethylsilyl-benzimidazole-2-carbamate are obtained; decomposition point >120° C. (active ingredient No. 1).

reactant | triethylchlorosilane | C(C)[Si](Cl)(CC)CC | C6H15ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl benzimidazole-2-carbamate | N1=C(NC2=C1C=CC=C2)NC(=O)OC | C9H9N3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl N-triethylsilyl-benzimidazole-2-carbamate | C(C)[Si](N(C(=O)OC)C=1NC2=C(N1)C=CC=C2)(CC)CC | C15H23N3O2Si
